US05962479
4-(1-Ethyl-propylamino)-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester
A mixture of 4-chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester (500 mg, 1.56 mmol) and 1-ethyl-propyl-amine (0.8 ml) in 1 ml of DMSO was heated at reflux for 15 hours. The mixture was quenched with sat. ammonium chloride and extracted with ethyl acetate. The organic layer was dried and concentrated to give 445.6 mg of yellow solid. The solid was purified through silica gel column chromatography using 1:1 ratio of chloroform:hexane as eluent to give (289 mg, 50%)of the title compound as white crystals, mp 98-102° C.; 1H NMR (CDCl3) δ8.04 (d, 1H), 6.85 (s, 2H), 6.06 (s, 1H), 3.85 (s, 3H), 3.32 (m, 1H), 2.28 (s, 3H), 2.10 (s, 3H), 2.07 (s, 3H), 1.62 (m, 4H), 0.95 (t, 6H) ppm.

reactant | 4-chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester | 1.56 mmol, 500 mg | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)C)C)=O | C17H18ClNO3
reactant | 1-ethyl-propyl-amine | 0.8 ml | C(C)C(CC)N | C5H13N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 4-(1-Ethyl-propylamino)-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester | 445.6 mg | COC(C1=C(N=C(C=C1NC(CC)CC)C)OC1=C(C=C(C=C1C)C)C)=O | C22H30N2O3
